US09358231B2
B. N-(3-(hydroxymethyl)-4-methylphenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide
To a solution Ethyl 2-methyl-5-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamido)benzoate (300 mg, 0.65 mmol) in dried THF (2.2 mL) was added Lithium aluminium hydride 2.0M THF solution (0.48 mL, 0.98 mmol) at 0° C. The reaction mixture was stirred for 2 hours at room temperature. When the reaction was completed, the reaction mixture was diluted with ethyl ether (2.0 mL) and added water very slowly to decompose the excess of the reagent. To a reaction mixture was added MgSO4, celite filtered and concentrated under reduced pressure. The title compound (230 mg, 84% yield) was used next step without further purification. MS m/z: 422 [M+1].

reactant | Ethyl 2-methyl-5-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamido)benzoate | 0.65 mmol, 300 mg | CC1=C(C(=O)OCC)C=C(C=C1)NC(C1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)=O | C24H28F3N3O3
reactant | Lithium aluminium hydride | 0.98 mmol, 2.0M, 0.48 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
solvent | ethyl ether | 2.0 mL | C(C)OCC | C4H10O
product | N-(3-(hydroxymethyl)-4-methylphenyl)-4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)benzamide | 230 mg, 84% yield | OCC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)=O | C22H26F3N3O2
